US08017773B2
Step 2: trans-(4-amino-cyclohexyl)-(4-isopropyl-piperazin-1-yl)-methanone, dihydrochloride (intermediate 1)
A mixture of 4.56 g (12 mmol) [trans-4-(4-isopropyl-piperazine-1-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester and 29 mL 4N HCl in dioxane was stirred for 6 h at 50° C. evaporated to dryness and used without further purification in the subsequent step. MS (m/e): 254.1 (MH+).

reactant | [trans-4-(4-isopropyl-piperazine-1-carbonyl)-cyclohexyl]-carbamic acid tert-butyl ester | 12 mmol, 4.56 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C)=O | C19H35N3O3
reactant | HCl | 4N, 29 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-(4-amino-cyclohexyl)-(4-isopropyl-piperazin-1-yl)-methanone, dihydrochloride | Cl.Cl.N[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C | InChI=1S/C14H27N3O.2ClH/c1-11(2)16-7-9-17(10-8-16)14(18)12-3-5-13(15)6-4-12;;/h11-13H,3-10,15H2,1-2H3;2*1H/t12-,13-;;
